US06462040B1
Cis-2-t-butoxycarbonylcyclopropanecarboxylic Acid
To 100 ml of a methanol solution of 9.49 g (47.4 mmol) of t-butyl cis-2-methoxycarbonylcyclopropanecarboxylate was added 40 ml of an aqueous solution of 4.06 g (61.5 mmol) of potassium hydroxide under cooling with ice, followed by stirring at room temperature for 24 hours. After completion of the reaction, the solvent was evaporated under reduced pressure. Water was added to the residue, and the mixture was washed with diethyl ether. The aqueous layer was adjusted to a pH of 2 to 3 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give 7.56 g (85.7%) of the title compound as a pale yellow solid.

reactant | t-butyl cis-2-methoxycarbonylcyclopropanecarboxylate | 47.4 mmol, 9.49 g | COC(=O)[C@@H]1[C@@H](C1)C(=O)OC(C)(C)C | C10H16O4
reactant | potassium hydroxide | 61.5 mmol, 4.06 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | Cis-2-t-butoxycarbonylcyclopropanecarboxylic Acid | 7.56 g, 85.7% | C(C)(C)(C)OC(=O)[C@@H]1[C@@H](C1)C(=O)O | C9H14O4
